US07786108B2
Synthesis of (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid
Add 5 N sodium hydroxide solution (2 mL) to a solution of (4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid methyl ester (63 mg, 0.088 mmol) in methanol (5 mL) and heat at 60° C. for 4 h. After the reaction cools to room temperature, acidify to pH 4 with 2 N hydrochloric acid solution and extract the aqueous mixture with ethyl acetate (3×10 mL). Wash the organic layer with water and brine (10 mL each). Dry the organic layer over anhydrous sodium sulfate, filter and remove the solvent under reduced pressure to provide the title compound as an off-white solid (58 mg, 95%). 1H NMR (CDCl3, 300 MHz) δ 0.78-2.45 (m, 22H), 2.63-3.10 (m, 4H), 4.61-4.82 (m, 3H), 5.12-5.19 (m, 1H), 6.89 (s, 1H), 7.12-7.33 (m, 2H), 7.62-7.81 (m, 3H); ESI MS m/z 706 [C34H36F9N3O3+H]+; HPLC 96.3%, tR 18.9 min.

reactant | sodium hydroxide | 5 N, 2 mL | [OH-].[Na+]
reactant | (4-{5-[(3,5-bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid methyl ester | 0.088 mmol, 63 mg | COC(CC1CCC(CC1)CN1C2=C(C(CCC1)N(C1=CC(=NO1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C)=O | C35H38F9N3O3
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid | 58 mg, 95% | FC(C=1C=C(CN(C2C3=C(N(CCC2)CC2CCC(CC2)CC(=O)O)C=C(C(=C3)C)C(F)(F)F)C3=CC(=NO3)C)C=C(C1)C(F)(F)F)(F)F | C34H36F9N3O3
